US07101882B2
Intermediate 35: Ethyl 4-(methylthio)butanoate
A solution of ethyl 4-bromobutyrate (0.26 g) in N,N-dimethylformamide (3 ml) was treated with sodium thiomethoxide (0.103 g), and the mixture stirred at room temperature overnight. The mixture was partitioned between water (10 ml) and dichloromethane (10 ml), and the organic layer was washed with 1:1 saturated aqueous sodium chloride and water (10 ml). The organic layers were evaporated in vacuo to give the title compound as a clear oil (0.135 g). NMR (CDCl3) 4.06δ(2H, q, CH2), 2.46δ(2H, t, CH2), 2.35δ(2H, t, CH2), 2.03δ(3H, s, CH3), 1.85δ(2H, m, CH2), 1.18δ(3H, t, CH3).

reactant | ethyl 4-bromobutyrate | 0.26 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium thiomethoxide | 0.103 g | C[S-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(methylthio)butanoate | 0.135 g | CSCCCC(=O)OCC | C7H14O2S
